US07169761B2
Carbon tetrabromide (0.62 g) and triphenylphosphine (0.49 g) were added to a solution of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-(hydroxymethyl)-2-methylphenyl]-D-glucitol (1.0 g) in methylene chloride (10 ml) at room temperature and the mixture was stirred for one hour. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-(bromomethyl)-2-methylphenyl]-D-glucitol (0.8 g).

reactant | Carbon tetrabromide | 0.62 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-(hydroxymethyl)-2-methylphenyl]-D-glucitol | 1.0 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=CC(=C1)CO)C | C42H44O6
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-(bromomethyl)-2-methylphenyl]-D-glucitol | 0.8 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=CC(=C1)CBr)C | C42H43BrO5
